US05760259
11-(2-furyl)-10-undecenoic acid
This compound was synthesized from 2-furaldehyde (1.92 g, 20 mmol) and 9-carboxynonyltriphenylphosphonium bromide (10.27 g, 20 mmol) in THF (100 mL) by a Wittig reaction. Crystallization (petroleum ether) afforded the product (2.95 g, 59%) as white crystals (mp 45°-46° C.); IR: 3450-2500 cm-1 ; 1H-NMR: 1.33 (m, 8H), 1.46 (m, 2H), 1.65 (m, 2H), 2.34 (t, 2H), 2.45 (m, 2H), 5.55 (m, 1H), 6.18 (d, 1H), 6.25 (d, 1H), 6.38 (d, 1H), 7.38 (s, 1H), 9.80 (bs, 1H). Anal. Calcd. for C15 H22O3 :C, 71.97, H, 8.86%; Found: C, 71.93, H, 8.87%. Z:E=43:57.

reactant | 2-furaldehyde | 20 mmol, 1.92 g | O1C(=CC=C1)C=O | C5H4O2
reactant | 9-carboxynonyltriphenylphosphonium bromide | 20 mmol, 10.27 g | [Br-].C(=O)(O)CCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 11-(2-furyl)-10-undecenoic acid | 2.95 g, 59% | O1C(=CC=C1)C=CCCCCCCCCC(=O)O | C15H22O3
